US04604390
N-[2-[2-(Diethylamino)ethyl]-7-methoxy-2H[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]-1,2-ethanediamine, hydrobromide salt
Reaction of a solution of 3.5 g (0.0095 mol) of 5-amino-N,N-diethyl-7-methoxy-2H[1]benzothiopyrano-[4,3,2-cd]indazole-2-ethanamine and 5.8 g (0.0283 mol) of 2-bromoethylamine, hyrobromide, in 30 ml of EtOH as described in Example 38 gave 1.6 g of product.

reactant | 5-amino-N,N-diethyl-7-methoxy-2H[1]benzothiopyrano-[4,3,2-cd]indazole-2-ethanamine | 0.0095 mol, 3.5 g | NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(S2)C(=CC=C1)OC | C20H24N4OS
reactant | 2-bromoethylamine, hyrobromide | 0.0283 mol, 5.8 g | Br.BrCCN
solvent | EtOH | 30 ml | CCO | C2H6O
product | N-[2-[2-(Diethylamino)ethyl]-7-methoxy-2H[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]-1,2-ethanediamine, hydrobromide salt | 1.6 g | Br.C(C)N(CCN1N=C2C=3C(=C(C=CC13)NCCN)SC1=C2C=CC=C1OC)CC | InChI=1S/C22H29N5OS.BrH/c1-4-26(5-2)13-14-27-17-10-9-16(24-12-11-23)22-19(17)20(25-27)15-7-6-8-18(28-3)21(15)29-22;/h6-10,24H,4-5,11-14,23H2,1-3H3;1H
